US09371320B2
B) ethyl 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
To a solution of ethyl 4-bromo-2-fluorobenzoate (2.0 g), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2-bi-1,3,2-dioxaborolane (2.47 g) and potassium acetate (1.59 g) in DMF (10 mL) was added 1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium(II) (296 mg), and the mixture was stirred overnight at 80° C. The reaction mixture was filtered to remove the insoluble substance. To the filtrate was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.1 g).

reactant | ethyl 4-bromo-2-fluorobenzoate | 2.0 g | BrC1=CC(=C(C(=O)OCC)C=C1)F | C9H8BrFO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2-bi-1,3,2-dioxaborolane | 2.47 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.59 g | C(C)(=O)[O-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 296 mg | Cl[Pd]Cl
product | ethyl 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.1 g | FC1=C(C(=O)OCC)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H20BFO4
